US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.097 g, 0.349 mmol) was reacted with N-(2-azidoethyl)-4-hexylbenzamide (0.096 g, 0.349 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-(4-hexylbenzamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 7.65 (d, 2H), δ 7.55 (t, 1H), δ 7.26 (s, 1H), δ 7.09 (d, 2H), δ 6.39 (s, 1H), δ 6.04 (s, 2H), δ 4.48 (t, 2H), δ 3.83 (q, 2H), δ 2.56 (q, 4H), δ 2.24 (t, 2H), δ 1.50 (m, 13H), δ 1.21 (m, 1H), δ 0.77 (t, 3H) ppm; 13C NMR (75 MHz, CDCl3) δ 168.3, 148.3, 147.3, 138.7, 131.4, 128.7, 127.4, 122.2, 106.4, 84.9, 73.9, 49.5, 40.2, 36.0, 31.8, 31.3, 29.9, 29.3, 29.1, 28.9, 28.2, 28.1, 28.0, 25.6, 22.8, 14.3 ppm; HRMS (ESI) calcd for C30H45N7O3 (M+) 551.3584. found 551.3581, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)-4-hexylbenzamide hydrochloride (0.164 g, 96% yield). 1H NMR (400 MHz, CD3OD) δ 8.28 (s, 1H), δ 7.67 (d, 2H), δ 7.21 (d, 2H), δ 6.43 (s, 1H), δ 4.72 (s, 2H), δ 3.87 (s, 2H), δ 2.74 (s, 2H), δ 2.58 (t, 2H), δ 2.31 (t, 2H), δ 1.66 (s, 2H), δ 1.55 (s, 4H), δ 1.35 (s, 2H), δ 1.25 (s, 6H), δ 0.66 (t, 3H) ppm; 13C NMR (100 MHz, CD3OD)-δ 169.2, 159.5, 147.4, 147.3, 131.2, 108.4, 51.2, 48.5, 48.3, 48.1, 47.9, 47.7, 47.5, 47.3, 39.5, 36.5, 35.6, 31.6, 31.7, 31.2, 28.8, 28.2, 27.9, 27.7, 24.1, 23.9, 22.6, 13.3, 9.9 ppm; HRMS (ESI) calcd for C25H37N7O (M+) 451.3059. found 451.3058.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.349 mmol, 0.097 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)-4-hexylbenzamide | 0.349 mmol, 0.096 g | N(=[N+]=[N-])CCNC(C1=CC=C(C=C1)CCCCCC)=O | C15H22N4O
product | tert-butyl 2-amino-4-(5-(1-(2-(4-hexylbenzamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(C1=CC=C(C=C1)CCCCCC)=O)C(=O)OC(C)(C)C | C30H45N7O3
